US04578387
H. Preparation of 5,6,7,8-tetrahydro-2-(2-methoxy-4-methylsulfonylphenyl)imidazo[1,2-a]pyrazine dihydrochloride
A suspension of 4.5 g. of 8-chloro-2-(2-methoxy-4-methylsulfonylphenyl)imidazo[1,2-a]pyrazine hydrobromide in 190 ml. of dimethylformamide was treated with 3.4 g. of triethylamine and 1 g. of 5% palladium-on-carbon. This mixture was hydrogenated at room temperature at 60 psi for about 75 minutes. The catalyst was removed by filtration and the solvent was removed in vacuo. During the course of solvent removal a precipitate occurred which was removed by filtration. The precipitate was triturated with chloroform and the residue was suspended in methanolic hydrogen chloride. After stirring for a period of time, the methanol was removed by evaporation and the resulting solid was collected with acetone by filtration affording 2.1 g. of the desired title product, M+ =307.

reactant | 8-chloro-2-(2-methoxy-4-methylsulfonylphenyl)imidazo[1,2-a]pyrazine hydrobromide | Br.ClC=1C=2N(C=CN1)C=C(N2)C2=C(C=C(C=C2)S(=O)(=O)C)OC
reactant | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 5,6,7,8-tetrahydro-2-(2-methoxy-4-methylsulfonylphenyl)imidazo[1,2-a]pyrazine dihydrochloride | Cl.Cl.COC1=C(C=CC(=C1)S(=O)(=O)C)C=1N=C2N(CCNC2)C1 | InChI=1S/C14H17N3O3S.2ClH/c1-20-13-7-10(21(2,18)19)3-4-11(13)12-9-17-6-5-15-8-14(17)16-12;;/h3-4,7,9,15H,5-6,8H2,1-2H3;2*1H
